US08049015B2
4-Bromo-3-dibromomethyl-benzonitrile (5.66 g, 16 mmol) was dissolved in EtOH (150 mL) and heated to 60° C. Silver nitrate (6.80 g, 40 mmol), prepared as a solution in H2O (40 mL), was added dropwise, and the reaction was heated to 75° C. and stirred overnight. The organic layer was decanted, concentrated, and filtered, and the residue was partitioned between EtOAc and H2O. The product was extracted with EtOAc, and the combined organic layers were concentrated and purified by silica gel chromatography (0-30% EtOAc in hexanes) to give 4-bromo-3-formyl-benzonitrile.

reactant | 4-Bromo-3-dibromomethyl-benzonitrile | 16 mmol, 5.66 g | BrC1=C(C=C(C#N)C=C1)C(Br)Br | C8H4Br3N
reactant | EtOH | 150 mL | CCO | C2H6O
solvent | H2O | 40 mL | O | H2O
catalyst | Silver nitrate | 40 mmol, 6.80 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-bromo-3-formyl-benzonitrile | BrC1=C(C=C(C#N)C=C1)C=O | C8H4BrNO
